US04822729
2-[m-(3-chloro-2,2,3-trifluoro-propionamido)-phenoxy]-myristoyl chloride
An amount of 31.5 g of 2-[m-(3-chloro-2,2,3-trifluoro-propionamido)-phenoxy]-myristic acid is refluxed for 30 min with thionyl chloride. The excess thionyl chloride is removed by evaporation. The oil obtained slowly solidifies.

reactant | 2-[m-(3-chloro-2,2,3-trifluoro-propionamido)-phenoxy]-myristic acid | 31.5 g | ClC(C(C(=O)NC=1C=C(OC(C(=O)O)CCCCCCCCCCCC)C=CC1)(F)F)F | C23H33ClF3NO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-[m-(3-chloro-2,2,3-trifluoro-propionamido)-phenoxy]-myristoyl chloride | ClC(C(C(=O)NC=1C=C(OC(C(=O)Cl)CCCCCCCCCCCC)C=CC1)(F)F)F | C23H32Cl2F3NO3
